US08980904B2
(2) Preparation of 4-(3-chloro-4-methoxybenzyloxy)-2-(methylsulfinyl)-N-(pyridin-2-ylmethyl)pyrimidine-5-carboxamide
4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(pyridin-2-ylmethyl)pyrimidine-5-carboxamide (180 mg, 0.42 mmol) was dissolved in 20 ml of dichloromethane, m-CPBA (80 mg, 0.46 mmol) was added and reacted at room temperature for 12 h, washed with water after reaction, extracted with dichloromethane, the organic layer was dried, dried by rotation to obtain yellow solid, and this product was directly used in the next reaction without purification.

reactant | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(pyridin-2-ylmethyl)pyrimidine-5-carboxamide | 0.42 mmol, 180 mg | ClC=1C=C(COC2=NC(=NC=C2C(=O)NCC2=NC=CC=C2)SC)C=CC1OC | C20H19ClN4O3S
reactant | m-CPBA | 0.46 mmol, 80 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylsulfinyl)-N-(pyridin-2-ylmethyl)pyrimidine-5-carboxamide | ClC=1C=C(COC2=NC(=NC=C2C(=O)NCC2=NC=CC=C2)S(=O)C)C=CC1OC | C20H19ClN4O4S
